US04147693
33.5 pts. by wt. of 2-bromofuran-5-aldehyde, dissolved in 100 pts. by vol. of THF, are added to a solution of 1-amino-2-oxo-imidazolidine hydrochloride in 350 pts. by vol. of water, which has been adjusted to pH 5 with sodium hydroxide solution, and the mixture is stirred overnight. The precipitate is filtered off, washed with water and recrystallised from methanol. 30.0 pts. by wt. of 1-(5-bromofurylideneamino)-2-oxo-imidazolidine of dec. pt. 153°-158° C. are obtained.

reactant | 2-bromofuran-5-aldehyde | BrC=1OC(=CC1)C=O | C5H3BrO2
reactant | THF | C1CCOC1 | C4H8O
reactant | 1-amino-2-oxo-imidazolidine hydrochloride | Cl.NN1C(NCC1)=O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(5-bromofurylideneamino)-2-oxo-imidazolidine | BrC1=CCC(O1)=NN1C(NCC1)=O | C7H8BrN3O2
